US07741327B2
To a stirred solution of (S)-2-amino-3-cyclohexyl-propionic acid methyl ester (1.15 g, 0.062 mol) in N,N-dimethylformamide (5 mL) was added N,N-diisopropylethylamine (3.63 g, 0.282 mol) slowly at room temperature, under nitrogen. The resulting mixture was stirred for 5 min and then treated with 4-bromo-3-(2,3-dichloro-phenoxy)-but-2-enoic acid ethyl ester (2.0 g, 0.006 mol) and the reaction mixture was heated at 110° C.-120° C. for 16 h. After this time, ice water was added and the resulting mixture was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. Purification using flash column chromatography (silica gel (100-200 mesh)) afforded (S)-3-cyclohexyl-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (0.40 g, 17%) as a yellow oil.

reactant | (S)-2-amino-3-cyclohexyl-propionic acid methyl ester | 0.062 mol, 1.15 g | COC([C@H](CC1CCCCC1)N)=O | C10H19NO2
reactant | N,N-diisopropylethylamine | 0.282 mol, 3.63 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(2,3-dichloro-phenoxy)-but-2-enoic acid ethyl ester | 0.006 mol, 2.0 g | C(C)OC(C=C(CBr)OC1=C(C(=CC=C1)Cl)Cl)=O | C12H11BrCl2O3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (S)-3-cyclohexyl-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 0.40 g, 17% | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)Cl)=O)=O | C20H23Cl2NO4
